US07259183B2
827 mg of 4-(1-methoxy-1-methyl-ethyl)-benzoic acid methyl ester (3.97 mmol) (prepared as described in example S102) and 1.26 ml allyltrimethylsilane (7.94 mmol) were dissolved in 10 ml DCM and the solution was cooled to −78° C. Then 4.77 ml of a 1 M solution of TiCl4 in DCM were added dropwise. After 30 h the reaction was quenched at −78° C. by addition of methanol. Then water was added and the mixture was extracted 3 times with DCM. The combined extracts were washed with brine, dried with magnesium sulfate, filtered and concentrated. The remaining residue was purified by chromatography (silica gel; cyclohexane/EtOAc 95:5) to give 331 mg (38%) of 4-(1,1-dimethyl-but-3-enyl)-benzoic acid methyl ester as a colorless liquid. 1H NMR (CDCl3, 300 MHz): δ 1.33 (s, 6H), 2.38 (d, J=7 Hz, 2H), 3.90 (s, 3H), 4.91-5.00 (m, 3H), 5.51 (m, 1H), 7.41 (d, J=9 Hz, 1H), 7.97 (d, J=9 Hz, 1H).

reactant | 4-(1-methoxy-1-methyl-ethyl)-benzoic acid methyl ester | 3.97 mmol, 827 mg | COC(C1=CC=C(C=C1)C(C)(C)OC)=O | C12H16O3
reactant | allyltrimethylsilane | 7.94 mmol, 1.26 ml | C(C=C)[Si](C)(C)C | C6H14Si
reactant | DCM | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | Cl[Ti](Cl)(Cl)Cl
product | 4-(1,1-dimethyl-but-3-enyl)-benzoic acid methyl ester | 331 mg, 38% | COC(C1=CC=C(C=C1)C(CC=C)(C)C)=O | C14H18O2
